US07214673B2
N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazapin-3-yl)-propionamide
Combine 3-amino-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione (5.7 g, 30.0 mmol) and triethyl amine(3.33 g, 33.0 mmol) in 120 mL DMF and add propionyl chloride (3.05 g, 33.0 mmol) dropwise at RT. After stirring overnight, remove DMF under reduced pressure, suspend the residue in a mixed solvent (CHCl3/i-PrOH=3/1, 400 mL). Collect an off-white solid via suction filtration to give the title compound. Wash the filtrate with NaHCO3 (sat.2×100 mL) and dry with Na2SO4. Concentrate the organic solvent down to a residue, treat with ether, collect the solid as title compound: mass spectrum (APCI) (m/e): 248.1 (M+1). 1H NMR (400 MHz, DMSO-d6): 10.70 (s, 2H), 8.19 (d, 1H, J=7.2 Hz), 7.23–7.15 (m, 4H), 4.73 (d, 1H, J=8.0 Hz), 2.27 (q, 2H, J=8.0 Hz), 0.94 (t, 3H, J=8.0 Hz).

reactant | 3-amino-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione | 30.0 mmol, 5.7 g | NC1C(NC2=C(NC1=O)C=CC=C2)=O | C9H9N3O2
reactant | triethyl amine | 33.0 mmol, 3.33 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 33.0 mmol, 3.05 g | C(CC)(=O)Cl | C3H5ClO
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazapin-3-yl)-propionamide | O=C1C(C(NC2=C(N1)C=CC=C2)=O)NC(CC)=O | C12H13N3O3
